US06911463B2
A 0° C. solution of 3-dimethylaminomethyl-1H-indole-4-carboxylic acid methyl ester hydroiodide (19 g, 52.7 mmol) in 75 ml of methanol and 75 ml of 2-nitropropane is treated with dimethyl sulfate (10 ml, 105.5 mmol) and solid sodium methoxide (6.3 g, 110.6 mmol) sequentially. The resulting mixture is allowed to warm to ambient temperature, and, after stirring overnight, the reaction mixture is diluted with ethyl acetate (300 ml) and saturated aqueous NH4Cl solution (500 ml). The aqueous layer is extracted with ethyl acetate (200 ml), and the combined organic layers are dried over Na2SO4 and concentrated in vacuo to give 3-(2-methyl-2-nitropropyl)-1H-indole-4-carboxylic acid methyl ester in quantitative yield.

reactant | 3-dimethylaminomethyl-1H-indole-4-carboxylic acid methyl ester hydroiodide | 52.7 mmol, 19 g | I.COC(=O)C=1C=2C(=CNC2C=CC1)CN(C)C
reactant | dimethyl sulfate | 105.5 mmol, 10 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium methoxide | 110.6 mmol, 6.3 g | C[O-].[Na+]
reactant | 2-nitropropane | 75 ml | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | methanol | 75 ml | CO | CH4O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | NH4Cl | 500 ml | [NH4+].[Cl-]
product | 3-(2-methyl-2-nitropropyl)-1H-indole-4-carboxylic acid methyl ester | quantitative yield | COC(=O)C=1C=2C(=CNC2C=CC1)CC(C)([N+](=O)[O-])C | C14H16N2O4
